US07157577B2
O-5 5-(3,4-Dihydro-2H-quinoline-1-sulfonyl)-1,3-dihydro-indol-2-one
A mixture of 1,2,3,4-tetrahydroquinoline (Aldrich), 5-chlorosulfonyl-2-oxindole and pyridine in dichloromethane was stirred at room temperature overnight. The reaction was concentrated and the residue recrystallized from methanol to vie 5-(3,4, -dihydro-2H-quinoline-1-sulfonyl)-1,3-dihydro-indol-2-one. 1H-NMR (360 MHz, dimethylsulfoxide-d6) δ 10.74 (s, 1H, NH), 7.84–7.90 (d, 1H, SO2NH), 7.67–7.72 (m, 2H, 2×CH), 7.01–7.16 (m, 4H, aromatic), 6.95–6.97(d, 1H, CH), 4.28–4.29 (m, 1H), 3.58 (s, 2H, CH2), 2.59–2.65 (m, 2H), 1.75–1.77 (m, 2H), 1.53–1.61 (m, 2H). MS m/z 329 [M+1].

reactant | 1,2,3,4-tetrahydroquinoline | N1CCCC2=CC=CC=C12 | C9H11N
reactant | 5-chlorosulfonyl-2-oxindole | ClS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C8H6ClNO3S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-(3,4-Dihydro-2H-quinoline-1-sulfonyl)-1,3-dihydro-indol-2-one | N1(CCCC2=CC=CC=C12)S(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C17H16N2O3S
